US06340691B1
2-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-ethanol (4.23 g, 16.98 mmol) was dissolved in 200 ml of THF. HCl gas was bubbled through the solution at 0° C. for 5 minutes. Still at 0° C. the thionyl chloride (2.48 ml, 33.9 mmol) was added dropwise. The reaction mixture was heated at reflux for 2 hours before it was concentrated. 1-{2-[4-(Chloro-ethyl)-phenoxy]-ethyl}-piperidine (4.74 g, 15.6 mmol) was isolated as a brown semisolid; Yield 92%; MS: 268.3 (M+H)+

reactant | 2-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-ethanol | 16.98 mmol, 4.23 g | N1(CCCCC1)CCOC1=CC=C(C=C1)CCO | C15H23NO2
reactant | thionyl chloride | 33.9 mmol, 2.48 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-{2-[4-(Chloro-ethyl)-phenoxy]-ethyl}-piperidine | 15.6 mmol, 4.74 g, Yield 92% | ClCCC1=CC=C(OCCN2CCCCC2)C=C1 | C15H22ClNO
